Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
 
Chief Complaint: Chest pain  

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ yo f with history of paranoid schizophrenia, 
asthma and DM sent from ___ due to CP and 
SOB for 2 days and AMS, more combative. Also with left leg/thigh 
pain. She is an extremely poor historian and can only describe 
having pain in the ___ her sternum starting about 2 days 
ago with some associated chest tightness and questionable 
shortness of breath. She denies onset with exertion. Per report 
from her facility, she had cough with clear sputum as well as 
diarrhea and LLQ pain at ___. She told the ED she had a 
seizure last night but the OSH did not have reports of this.  
.  
In the ED, initial vs were: 97.5, 86, 136/79, 18, with 97% on 
RA. Patient underwent a head CT that is prelim negative. EKG 
with no apparent signs of ischemia. ___ trop negative. She was 
given 1L IVF for ?ARF. D-dimer was negative. She also reported 
thigh pain, but exam was normal. Vitals on transfer were HR 84, 
BP 111/55, RR 18, sat 97% on RA.  
.  
On the floor, she cannot thoroughly answer questions or describe 
her symptoms. She does deny any suicidal or homicidal ideation.  

.  
Review of sytems: Unable to obtain secondary to paranoid 
schizophrenia  

 
Past Medical History:
paranoid schizophrenia  
DM  
asthma  
HTN  
HL  
urinary retention  

 
Social History:
___
Family History:
unable to obtain 
 
Physical Exam:
Vitals: T: 97.4 BP: 152/91 P: 79 R: 22 O2: 98% RA  
General: Alert, oriented to month and year but not date or 
place, answering some questions but not completely, no acute 
distress  
HEENT: NC/AT, sclera anicteric, MM tachy, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally anteriorly (patient 
"unable to move" for posterior auscultation, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, trace BLE edema, no 
clubbing or cyanosis  

 
Pertinent Results:
___ 07:55AM BLOOD WBC-6.7 RBC-3.76* Hgb-11.6* Hct-34.9* 
MCV-93 MCH-30.9 MCHC-33.3 RDW-12.7 Plt ___
___ 12:52PM BLOOD Neuts-70.1* ___ Monos-3.6 Eos-2.6 
Baso-0.5
___ 07:55AM BLOOD Plt ___
___ 12:52PM BLOOD Plt ___
___ 07:55AM BLOOD
___ 07:55AM BLOOD Glucose-157* UreaN-22* Creat-1.2* Na-140 
K-4.7 Cl-102 HCO3-28 AnGap-15
___ 12:39PM BLOOD Glucose-160* UreaN-26* Creat-1.2* Na-136 
K-4.5 Cl-99 HCO3-26 AnGap-16
___ 12:39PM BLOOD estGFR-Using this
___ 07:55AM BLOOD CK(CPK)-159
___ 10:41PM BLOOD CK(CPK)-215*
___ 12:39PM BLOOD ALT-35 AST-36 LD(LDH)-193 CK(CPK)-282* 
AlkPhos-102 TotBili-0.1
___ 07:55AM BLOOD CK-MB-4 cTropnT-<0.01
___ 10:41PM BLOOD CK-MB-6 cTropnT-<0.01
___ 12:39PM BLOOD CK-MB-9 cTropnT-<0.01
___ 12:39PM BLOOD Calcium-9.9 Phos-2.7 Mg-1.9
___ 02:33PM BLOOD D-Dimer-394
___ 12:39PM BLOOD TSH-1.5
___ 12:39PM BLOOD HoldBLu-HOLD
___ 12:39PM BLOOD LtGrnHD-HOLD
___ 12:39PM BLOOD GreenHd-HOLD
.
CXR-IMPRESSION: No acute cardiopulmonary abnormality. Relative 
prominence of the ascending thoracic aorta. 
.
CT head-IMPRESSION: No acute intracranial process.

 
Brief Hospital Course:
Pt is a ___ y.o female with h.o paranoid schizophrenia, HTN, HL, 
DM who presents s/p CP, SOB and now with ?AMS.  
.  
# AMS: Per her psych facility, she has had increased agitation 
over the past couple of days with mental status changes. Her 
baseline is unknown given paranoid schizophrenia but she 
partially answers some questions and is oriented to month, year 
and hospital (although incorrect hospital). No overt signs of 
aggression but appears withdrawn. CXR negative for signs of 
infection or reason for cough. Pt was continued on haldol as per 
prior regimen. There was no sign of infection, Bcx, Ucx were 
negative. TSH was normal. Pt did not display aggression during 
this hospitalization. Tegretol level was ordered.
.  
# Atypical CP: Pt does have risk factors for ACS including HTN, 
HL and DM. Patient was unable to fully describe her symptoms but 
points to the ___ her chest and says it hurts. Pt has 3 
sets of cardiac enzymes that were negative. She was observed on 
telemetry and did not have any events. Her EKG did not show any 
evidence of ischemia. She was continued on statin, ACEI and her 
ASA was increased to full dose.  
.  
# Paranoid schizophrenia: She was continued on haldol as above 
and klonopin, celexa, tegretol. She was evaluated by psychiatry 
and it was decided that she will require further inpatient 
psychiatric treatment.  
.  
# DM: Pt was continued on home 70/30 15 units BID and humalog 
ISS started.   
.  
# Anemia: Patient has history of anemia (unknown baseline) and 
takes iron supplements at home.  She was continued on iron 
tablets and her HCT monitored. 
.  
# HTN: She was continued on ACE-I and HCTZ. 
.  
# HL: Continued on home simvastatin.  
.  
# Asthma: started on combivent inhaler.
.  
Prophylaxis: Subcutaneous heparin, bowel regimen, pain control 
with tylenol  
.  
Access: peripherals  
Code: Full (presumed)  
Communication: Patient  
Emergency contact: Per psych records, ___ (child) 
___ pt home number ___  
 
Medications on Admission:
tegretol 200mg BID  
klonopin 0.5mg BID  
celexa 30mg daily  
enalapril maleate 20mg daily  
HCTZ 25mg daily  
simvastatin 20mg daily  
haldol 20mg qhs  
metoformin 1g BID  
asa 81mg daily  
ferrous sulfate 325mg BID  
loratadine 10mg daily  
eucerin PRN BID  
Humulin 70/30 15 units BID  
hydrocortisone cream 1% BID  
colace 100 BID  
senna 2 tabs BID  
mylanta 30mL q4 PRN  
milk of mag 30mL qhs PRN  
ibuprofen 400mg q4 PRN  
combivent 2 puffs QID PRN  
haldol 5mg q6 PRN  
acetaminophen 650mg q4 PRN  
dextromethorphan HBr 10mL q6 PRN  

 
Discharge Medications:
1. Carbamazepine 200 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
2. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
3. Citalopram 20 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
4. Enalapril Maleate 20 mg Tablet Sig: One (1) Tablet PO once a 
day.  
5. Hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
6. Simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.  
7. Haloperidol 20 mg Tablet Sig: One (1) Tablet PO at bedtime.  
8. Haloperidol 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for agitation.  
9. Metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a day. 
 
10. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
11. Ferrous Sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO twice a day.  
12. Loratadine 10 mg Tablet Sig: One (1) Tablet PO once a day.  
13. Humulin 70/30 100 unit/mL (70-30) Suspension Sig: Fifteen 
(15) units Subcutaneous twice a day.  
14. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
15. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
16. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for pain, fever.  
17. Combivent ___ mcg/Actuation Aerosol Sig: ___  Inhalation 
four times a day as needed for shortness of breath or wheezing.
Disp:*1 inhaler* Refills:*0*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Major:
atypical chest pain
.
Minor:
DM
HTN
HL
schizophrenia

 
Discharge Condition:
Mental Status: Confused - sometimes
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
You were admitted after reporting chest pain. You had a chest 
x-ray that was normal. In addition, your telemetry monitoring 
did not show evidence of an arrhythmia. Your blood tests did not 
show evidence of a heart attack. Your pain was relieved by 
tylenol. 
.
You will be returning to your psychiatric facility for continued 
treatment of your schizophrenia.
.
You were prescribed a combivent inhaler for your asthma.
 
Followup Instructions:
___